US08791287B2
Synthesis of 3-(benzyl-methyl-amino)-2-methyl-1-(3-methoxy-phenyl)-propan-1-one (V)
In a four-neck 1 L flask equipped with reflux, thermometer and mechanical stirrer, the following are loaded: 95% w/w paraformaldehyde (19.2 g, 0.638 moles) and acetonitrile (300 mL/234 g, 5.70 moles). The mixture is cooled to a temperature less than 10° C., then the following are loaded: 97% w/w N-benzylmethylamine (77.3 g, 0.638 moles), 36% HCl (70.9 g/60.0 mL, 0.70 moles). Finally, 99.7% 1-(3-methoxy-phenyl)-propan-1-one (100 g, 0.608 moles) is added. The reaction mixture is heated at 65±5° C. for 20-24 hours and the conversion is verified by means of HPLC. Upon completed reaction, the solution is concentrated under vacuum at 35-50° C. and 200-300 mL of solvent is collected. Added to the mixture are: toluene (100 ml) and purified water (200 ml), and stirring proceeds for 30 minutes at ambient temperature. The phases are separated and toluene (200 ml) is added to the aqueous phase. The pH is brought to 11-13 with 28% NaOH (about 105 g). The mixture is stirred for 30 minutes and the phases separated. The toluene phase is distilled under vacuum at 35-45° C. IPA (100 mL) is then added and the residue solvent is distilled.

reactant | paraformaldehyde | 0.638 moles, 19.2 g | C=O | CH2O
reactant | acetonitrile | 5.70 moles, 300 mL, 234 g | C(C)#N | C2H3N
reactant | N-benzylmethylamine | 0.638 moles, 77.3 g | C(C1=CC=CC=C1)CN | C8H11N
reactant | HCl | 0.70 moles, 60.0 mL, 70.9 g | Cl | ClH
reactant | 1-(3-methoxy-phenyl)-propan-1-one | 0.608 moles, 100 g | COC=1C=C(C=CC1)C(CC)=O | C10H12O2
product | 3-(benzyl-methyl-amino)-2-methyl-1-(3-methoxy-phenyl)-propan-1-one | C(C1=CC=CC=C1)N(CC(C(=O)C1=CC(=CC=C1)OC)C)C | C19H23NO2
